US08431563B2
To a solution of 1,1,1-trifluoro-2-(4-((2S)-2-(((1-methylethyl)amino)methyl)-4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-2-propanol (0.150 g, 0.305 mmol) in CH2Cl2 (5.0 mL) was added 4-dimethylaminopyridine (7.5 mg, 0.062 mmol), methanesulfonyl chloride (0.05 mL, 0.61 mmol, Aldrich, St. Louis, Mo.), and Hünig's base (0.2 mL, 0.9 mmol). The reaction mixture was stirred at room 20 min and then the solvent was removed in vacuo. The crude product was purified by column chromatography (40 g of silica, 10% to 30% acetone in hexanes) to afford N-(1-methylethyl)-N-(((2R)-4-(2-thiophenylsulfonyl)-1-(4-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)phenyl)-2-piperazinyl)methyl)methanesulfonamide (0.110 g) as a mixture of two isomers:

reactant | 1,1,1-trifluoro-2-(4-((2S)-2-(((1-methylethyl)amino)methyl)-4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-2-propanol | 0.305 mmol, 0.150 g | FC(C(C)(O)C1=CC=C(C=C1)N1[C@H](CN(CC1)S(=O)(=O)C=1SC=CC1)CNC(C)C)(F)F | C21H28F3N3O3S2
reactant | methanesulfonyl chloride | 0.61 mmol, 0.05 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Hünig's base | 0.9 mmol, 0.2 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 5.0 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.062 mmol, 7.5 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-(1-methylethyl)-N-(((2R)-4-(2-thiophenylsulfonyl)-1-(4-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)phenyl)-2-piperazinyl)methyl)methanesulfonamide | 0.110 g | CC(C)N(S(=O)(=O)C)C[C@@H]1N(CCN(C1)S(=O)(=O)C=1SC=CC1)C1=CC=C(C=C1)C(C(F)(F)F)(C)O | C22H30F3N3O5S3
